US07662825B2
2,3-Dichloro-N-[5-methyl-3-(6-methyl-2-pyridinylmethoxy)-2-pyrazinyl]benzenesulphonamide
Prepared by the method of Example 20 using 6-methylpyridine-2-methanol (0.05 g) and N-(3-bromo-5-methyl-2-pyrazinyl)-2,3-dichlorobenzenesulphonamide (0.1 g). Yield 0.023 g.

reactant | 6-methylpyridine-2-methanol | 0.05 g | CC1=CC=CC(=N1)CO | C7H9NO
reactant | N-(3-bromo-5-methyl-2-pyrazinyl)-2,3-dichlorobenzenesulphonamide | 0.1 g | BrC=1C(=NC=C(N1)C)NS(=O)(=O)C1=C(C(=CC=C1)Cl)Cl | C11H8BrCl2N3O2S
product | 2,3-Dichloro-N-[5-methyl-3-(6-methyl-2-pyridinylmethoxy)-2-pyrazinyl]benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC=C(N=C1OCC1=NC(=CC=C1)C)C | C18H16Cl2N4O3S
